US08383820B2
3-(5-Chloro-pyridin-2-yloxy)-N-(5-hydroxy-adamantan-2-yl)-benzamide
Prepared from 3-(5-chloro-pyridin-2-yloxy)-benzoic acid and 4-amino-1-hydroxyadamantane. 1H NMR (400 MHz, CDCl3): δ 8.11 (s, 1 H), 7.68 (d, 1 H), 7.51-7.61 (m, 2 H), 7.47 (t, 1 H), 6.94 (d, 1 H), 6.23-6.36 (m, 1 H), 4.08-4.25 (m, 1 H), 2.24 (t, 3 H), 1.51-2.03 (m, 13 H).

reactant | 3-(5-chloro-pyridin-2-yloxy)-benzoic acid | ClC=1C=CC(=NC1)OC=1C=C(C(=O)O)C=CC1 | C12H8ClNO3
reactant | 4-amino-1-hydroxyadamantane | NC1C2CC3(CC(CC1C3)C2)O | C10H17NO
product | 3-(5-Chloro-pyridin-2-yloxy)-N-(5-hydroxy-adamantan-2-yl)-benzamide | ClC=1C=CC(=NC1)OC=1C=C(C(=O)NC2C3CC4CC(CC2C4)(C3)O)C=CC1 | C22H23ClN2O3
